US03931279
methyl 2-phenylacetate
To a solution of the above lactone in 45 ml. of toluene at -78° C. is added dropwise, while stirring, diisobutylaluminum hydride (3.9 ml.). Stirring is continued at -78° C. for 0.5 hr., whereupon a solution of 9 ml. of water in 17 ml. of tetrahydrofuran is added. After the mixture is stirred for an additional hour at about 25° C. it is filtered. The filtrate is washed with brine, dried, and concentrated to yield the formula-LXXII title compound, 4.39 g., on oil.

reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | diisobutylaluminum hydride | 3.9 ml | [H-].C(C(C)C)[Al+]CC(C)C
reactant | water | O | H2O
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
product | methyl 2-phenylacetate | C1(=CC=CC=C1)CC(=O)OC | C9H10O2
